US07504404B2
4-{5-[7-Cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-yl]-[1,2,4]oxadiazol-3-yl}-benzenesulfonamide
The title compound was prepared from 7-cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.29) (174 mg, 0.5 mmol) and N-hydroxy-4-sulfamoyl-benzamidine [CAS-No. 4476-10-2] (161 mg, 0.75 mmol) according to general procedure II. Obtained after purification by column chromatography (dichloromethane/MeOH/NH4OH) and crystallization (dichloromethane/MeOH/hexane) as a light yellow solid (191 mg, 73%). MS (EI) 526.1 [(M)+]; mp 313° C.

reactant | 7-cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.5 mmol, 174 mg | C1(CC1)C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F | C17H12F3N3O2
reactant | N-hydroxy-4-sulfamoyl-benzamidine | 0.75 mmol, 161 mg | ONC(C1=CC=C(C=C1)S(N)(=O)=O)=N | C7H9N3O3S
product | 4-{5-[7-Cyclopropyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-yl]-[1,2,4]oxadiazol-3-yl}-benzenesulfonamide | C1(CC1)C1=CC(=NC=2N1N=CC2C2=NC(=NO2)C2=CC=C(C=C2)S(=O)(=O)N)C2=CC=C(C=C2)C(F)(F)F | C24H17F3N6O3S
